US07265149B2
a] (Z)-2-Hydroxy-4-oxo-4-(4-trifluoromethoxy-phenyl)-but-2-enoic acid ethyl ester
A solution of 1-(4-trifluoromethoxy-phenyl)-ethanone (5 g, 24 mmol) and diethyl oxalate (3.25 ml, 24 mmol) in ethanol (5 ml) was added within 20 min to an ice cooled solution of metallic sodium (552 mg, 24 mmol) in ethanol (15 ml) under an argon atmosphere. The cooling bath was removed and the reaction stirred 30 min after reaching ambient temperature. After standing 14 h, the precipitated yellow solid was filtered. The solid was partitioned between 1 M HCl/ice water 1/1 and tert butyl methyl ether. The aqueous layer was extracted two times with tert butyl methyl ether, the combined extracts were washed with brine/ice water 1/1 and dried over sodium sulfate. Evaporation of the solid gave 7.2 g (23.8 mmol, 99%) of the title compound as orange crystals.

reactant | 1-(4-trifluoromethoxy-phenyl)-ethanone | 24 mmol, 5 g | FC(OC1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O2
reactant | diethyl oxalate | 24 mmol, 3.25 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium | 24 mmol, 552 mg | [Na] | Na
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (Z)-2-Hydroxy-4-oxo-4-(4-trifluoromethoxy-phenyl)-but-2-enoic acid ethyl ester | 23.8 mmol, 7.2 g, 99% | C(C)OC(/C(=C/C(C1=CC=C(C=C1)OC(F)(F)F)=O)/O)=O | C13H11F3O5
